US06362289B1
A flame dried 250 ml Schlenk flask containing TBF (20 ml) was cooled to −78° C. and n-butyl lithium (20 ml of 2.4 M in hexane, 48.0 mmol) was added by syringe. After several minutes hexachlorobutadiene (1.88 ml, 12.0 mmol) was added dropwise via syringe over a 10 minute period. After completion of addition, the cold bath was removed and the mixture stirred at room temperature for 3 hours. The resulting 1,4-dilithio-1,3-butadiyne was used without further purification. The flask was then recooled to −78° C., and dimethylaminodimethylchlorosilane (3.6 ml, 24 mmol) was added by syringe. The flask was removed from the cold bath and the reaction mixture stirred at room temperature for 16 hours. At this time 1H NMR analysis indicated complete disappearance of dimethylaminodimethylchlorosilane and formation of 1,4-bis(dimethylaminodimethylsilyl)-butadiyne. The TBF was removed in vacuo, and the mixture was taken up in a minimum amount of pentane and filtered. The pentane was removed in vacuo to give 2.91 g (96%) of 1,4-bis(dimethylaminodimethylsilyl)butadiyne.

reactant | n-butyl lithium | 48.0 mmol, 2.4 M, 20 ml | C(CCC)[Li]
reactant | hexachlorobutadiene | 12.0 mmol, 1.88 ml | ClC(=C(C(=C(Cl)Cl)Cl)Cl)Cl | C4Cl6
reactant | dimethylaminodimethylchlorosilane | 24 mmol, 3.6 ml | CN(C)[Si](Cl)(C)C | C4H12ClNSi
product | 1,4-bis(dimethylaminodimethylsilyl)butadiyne | 2.91 g, 96% | CN(C)[Si](C#CC#C[Si](C)(C)N(C)C)(C)C | C12H24N2Si2
